US08357711B2
tert-Butyl 3-(pyrimidin-2-ylmethyl)piperidine-1-carboxylate
A 1 L, 3-neck round bottom flask, equipped with magnetic stirring bar, thermometer, nitrogen gas inlet, and addition funnel was charged with Zn dust (66 g, 1.01 mol, 3 eq). The flask was evacuated and filled with nitrogen three times. On the third evacuation the flask was thoroughly heated with a heat gun, and then allowed to cool to room temperature. Anhydrous THF (120 mL) and 1,2-dibromoethane (19.7 g, 104.8 mmol, 0.3 eq) were charged and the mixture stirred under nitrogen at 65° C. for 10 min. The reaction was cooled to room temperature, and chlorotrimethylsilane (2.6 g, 23.7 mmol, 0.07 eq) was added and the reaction stirred at room temperature for 45 min. A solution of tert-butyl 3-(iodomethyl)piperidine-1-carboxylate (Preparation 69, 110 g, 338.2 mmol, 1 eq) in THF (60 mL and 20 mL to wash the flask) was added through an addition funnel and the mixture was stirred at room temperature for 45 min (NOTE: fast exothermic reaction which, if necessary, can be controlled by means of an ice/water bath). Then a solution of 2-chloropyrimidine (32.5 g, 284 mmol, 0.84 eq) in THF (80 mL+20 mL to wash the flask) was added followed by bis(dibenzylidene acetone) palladium (0) (9.3 g, 10 mmol, 0.03 eq), and tri-o-tolylphosphine (4.1 g, 13.5 mmol, 0.04 eq) and the reaction mixture was heated at 65° C. for 2 h then allowed to cool to room temperature and stirring was continued at room temperature for 17 h. The reaction mixture was diluted with ethyl acetate (1.2 L) and filtered through Celite. The Celite cake was thoroughly washed with ethyl acetate until the filtrate was no longer ultra-violet absorbent, the organic filtrates were combined and washed with a 10% solution of ammonium chloride (2×250 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure to afford a brown residue that was purified through flash chromatography (Biotage). The fractions eluted with ethyl acetate:hexanes (40:60 v/v) were combined and concentrated in vacuo to title compound as a slightly yellow solid (27.3 g, 98.4 mmol, 34.6%).

reactant | 1,2-dibromoethane | 104.8 mmol, 19.7 g, 0.3 eq | BrCCBr | C2H4Br2
reactant | chlorotrimethylsilane | 23.7 mmol, 2.6 g, 0.07 eq | Cl[Si](C)(C)C | C3H9ClSi
reactant | tert-butyl 3-(iodomethyl)piperidine-1-carboxylate | 338.2 mmol, 110 g, 1 eq | ICC1CN(CCC1)C(=O)OC(C)(C)C | C11H20INO2
reactant | 2-chloropyrimidine | 284 mmol, 32.5 g, 0.84 eq | ClC1=NC=CC=N1 | C4H3ClN2
reactant | tri-o-tolylphosphine | 13.5 mmol, 4.1 g, 0.04 eq | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 1.2 L | C(C)(=O)OCC | C4H8O2
catalyst | Zn | 1.01 mol, 66 g, 3 eq | [Zn] | Zn
catalyst | bis(dibenzylidene acetone) palladium (0) | 10 mmol, 9.3 g, 0.03 eq | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-(pyrimidin-2-ylmethyl)piperidine-1-carboxylate | N1=C(N=CC=C1)CC1CN(CCC1)C(=O)OC(C)(C)C | C15H23N3O2
